US05362878
5-Nitro-6-methylthiophthalazine, prepared as described by Sturrock et al., Can. J. Chem., 49, 3047 (1971) and Hirsch & Orphanos, J. Heterocyclic Chem., 2, 206 (1965), was reduced with tin (II ) chloride and HCl to yield 5-amino-6-methylthiophthalazine. This material was coupled with commercially available oleoyl chloride to yield the title compound.

reactant | 5-Nitro-6-methylthiophthalazine | [N+](=O)([O-])C1=C2C=NN=CC2=CC=C1SC | C9H7N3O2S
reactant | tin (II ) chloride | [Sn](Cl)Cl
reactant | HCl | Cl | ClH
product | 5-amino-6-methylthiophthalazine | NC1=C2C=NN=CC2=CC=C1SC | C9H9N3S
